US08703758B2
1-[(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]-3-ethylurea
By a method similar to Example 17, and using tert-butyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate and ethyl isocyanate, the title compound was obtained.

reactant | tert-butyl [(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H35N3O5
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | 1-[(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]-3-ethylurea | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(=O)NCC)C=C1 | C22H32N4O4
